US08754107B2
To a suspension of imidazol-1-yl-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-methanone (preparation #1) (1.28 g, 4.32 mmol) in MeCN (10 mL) was added methyl iodide (1.1 mL, 17 mmol) and the reaction mixture was stirred at ambient temperature for about 2 h. Additional methyl iodide (0.5 mL, 8 mol) was added and stirring resumed for about 16 h. The reaction mixture was concentrated in vacuo to afford 1-methyl-3-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridine-6-carbonyl)-3H-imidazol-1-ium iodide (1.89 g, 100%) as an orange solid which was used in subsequent reactions without further purification. RP-HPLC (Table 1, Method d) Rt 1.77 min; m/z: (M+H)+ 311.

reactant | imidazol-1-yl-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-methanone | 4.32 mmol, 1.28 g | N1(C=NC=C1)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F | C13H11F3N4O
reactant | methyl iodide | 17 mmol, 1.1 mL | CI | CH3I
reactant | methyl iodide | 8 mol, 0.5 mL | CI | CH3I
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 1-methyl-3-(3-trifluoromethyl-7,8-dihydro-5H-[1,6]naphthyridine-6-carbonyl)-3H-imidazol-1-ium iodide | 1.89 g, 100% | [I-].C[N+]1=CN(C=C1)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F | InChI=1S/C14H14F3N4O.HI/c1-19-4-5-21(9-19)13(22)20-3-2-12-10(8-20)6-11(7-18-12)14(15,16)17;/h4-7,9H,2-3,8H2,1H3;1H/q+1;/p-1
